US04446147
11(a) (1S,5R,6R,7R)-7-Benzoyloxy-6-[(E)-(4RS)-4-methyl-3-oxonon-1-en-6-inyl]-2-oxabicyclo[3,3,0]octan-3-one
Analogously to Example 1(g), 14.2 g of the title compound was synthesized from 9.85 g of 3-methyl-2-oxooct-5-inylphosphonic acid dimethyl ester and 11 g of (1S,5R,6R,7R)-6-formyl-7-benzoyloxy-2-oxabicyclo[3,3,0]octan-3-one [E. J. Corey et al., J. Amer. Chem. Soc. 91: 5675 (1969)].

reactant | 3-methyl-2-oxooct-5-inylphosphonic acid dimethyl ester | 9.85 g | COP(OC)(=O)CC(C(CC#CCC)C)=O | C11H19O4P
reactant | (1S,5R,6R,7R)-6-formyl-7-benzoyloxy-2-oxabicyclo[3,3,0]octan-3-one | 11 g | C(=O)[C@@H]1[C@H]2CC(O[C@H]2C[C@H]1OC(C1=CC=CC=C1)=O)=O | C15H14O5
product | (1S,5R,6R,7R)-7-Benzoyloxy-6-[(E)-(4RS)-4-methyl-3-oxonon-1-en-6-inyl]-2-oxabicyclo[3,3,0]octan-3-one | 14.2 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H]([C@H]2CC(O[C@H]2C1)=O)\C=C\C(C(CC#CCC)C)=O | C24H26O5
